US08030311B2
N-[4-(4-Isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-2-(4-purin-9-yl-phenyl)-acetamide
The title compound is prepared as described in Example 1 but using (4-purin-9-yl-phenyl)-acetic acid and 4-(4-isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine (disclosed in WO 03/099771). Title compound: ES-MS: 538.1 [M+H]+; tR=2.93 min (System 1); Rf=0.12 (CH2Cl2/MeOH/NH3aq, 94:5:1).

reactant | (4-purin-9-yl-phenyl)-acetic acid | N1=CN=C2N(C=NC2=C1)C1=CC=C(C=C1)CC(=O)O | C13H10N4O2
reactant | 4-(4-isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine | C(C)(C)N1CCN(CC1)CC1=C(C=C(C=C1)N)C(F)(F)F | C15H22F3N3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | N-[4-(4-Isopropyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-2-(4-purin-9-yl-phenyl)-acetamide | C(C)(C)N1CCN(CC1)CC1=C(C=C(C=C1)NC(CC1=CC=C(C=C1)N1C2=NC=NC=C2N=C1)=O)C(F)(F)F | C28H30F3N7O
